US06579879B2
A mixture of 3-methoxy-6-(3-chloro-indole-2-sulfonyl)-pyridazine (0.34 mmol, 110 mg), conc. HCl (1 mL), and dioxane (3 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. The dried residue was triturated with water (10 mL), and filtered to obtain 6-(3-chloro-indole-2-sulfonyl)-2H-pyridazin-3-one (99%, 108 mg); mp 250° C.

reactant | 3-methoxy-6-(3-chloro-indole-2-sulfonyl)-pyridazine | 0.34 mmol, 110 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1NC2=CC=CC=C2C1Cl | C13H10ClN3O3S
reactant | HCl | 1 mL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(3-chloro-indole-2-sulfonyl)-2H-pyridazin-3-one | 108 mg, 99% | ClC1=C(NC2=CC=CC=C12)S(=O)(=O)C=1C=CC(NN1)=O | C12H8ClN3O3S
